* KT88 / 6550 — high-power beam tetrode (~42 W, premium Hi-Fi / studio).
*
* Norman Koren pentode model. Typical sample (T031 for precise fit).
*
* tube_type: pentode
* Pins: P (plate), G2 (screen), G (grid 1), K (cathode).
.SUBCKT KT88 P G2 G K
* Koren parameters: MU=8 EX=1.35 KG1=730 KG2=4500 KP=32 KVB=16
E1 7 0 VALUE={V(G2,K)/32*LN(1+EXP(32*(1/8+V(G,K)/V(G2,K))))}
G1 P K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.35)+sgn(V(7))*pwr(abs(V(7)),1.35))/730 * ATAN(V(P,K)/16)}
G2 G2 K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.35)+sgn(V(7))*pwr(abs(V(7)),1.35))/4500}
C1 G K 16p
C2 G P 1.2p
C3 P K 12p
RGI G K 1MEG
.ENDS KT88
